US07858640B2
[8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.35 g), 4-(4-methanesulfonylbenzyl)heptane-3,5-dione (0.49 g) and polyphosphoric acid (5.0 g) was heated at 100° C. for 2 hours. The mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (99.5:0.5 by volume) to afford title compound, 0.20 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.35 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 4-(4-methanesulfonylbenzyl)heptane-3,5-dione | 0.49 g | CS(=O)(=O)C1=CC=C(CC(C(CC)=O)C(CC)=O)C=C1 | C15H20O4S
solvent | water | O | H2O
product | [8-chloro-2,4-diethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)S(=O)(=O)C)CC)=O | C24H26ClNO5S
